data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_232874_0,[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:5]([C:4]([H:18])([H:19])[H:20])=[N:8]/[C:3]([H:15])([H:16])[H:17])([N:6]([H:10])[H:11])[O:7][H:9]>>[C:1](\[C:2]([H:12])([H:13])[H:14])([C:5]([C:4]([H:18])([H:19])[H:20])([O:7][H:9])[N:8]([C:3]([H:15])([H:16])[H:17])[H:10])=[N:6]\[H:11],33.746322499976884
MR_496257_1,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:4]([C:3]([H:16])([H:17])[H:18])=[N:8]/[O:7][H:10])([N:5]([H:11])[H:12])[O:6][H:9]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([N:5]([H:11])[H:12])[C:4]([C:3]([H:16])([H:17])[H:18])([O:6][H:9])[N:8]1[O:7][H:10],51.90868249999198
MR_642887_1,[C:1]1([N:5]([H:10])[H:11])([N:6]([H:12])[H:13])[C:2]([N:7]([H:14])[H:15])([H:9])[C:3]([H:16])([H:17])[N:4]1[H:8]>>[C:1](\[C:2]([C:3]([N:4]([H:8])[H:12])([H:16])[H:17])([N:7]([H:14])[H:15])[H:9])([N:5]([H:10])[H:11])=[N:6]/[H:13],33.62584250003138
MR_541498_0,[C:1]([N:3]([O:5][C:2]([H:13])([H:14])[H:15])[H:10])([N:4]([H:11])[H:12])([O:6][H:8])[O:7][H:9]>>[C:1]([N:3]([O:7][H:9])[H:10])([N:4]([H:11])[H:12])([O:5][C:2]([H:13])([H:14])[H:15])[O:6][H:8],60.98107749998604
MR_130274_1,[C:1](/[C:2]([N:3]([H:8])[H:9])=[N:7]\[C:5](=[C:6](/[N:4]([H:10])[H:11])[H:13])[H:12])([H:14])([H:15])[H:16]>>[C:1]([C:2]1([N:3]([H:8])[H:9])[C:6]([N:4]([H:10])[H:11])([H:13])[C:5]([H:12])=[N:7]1)([H:14])([H:15])[H:16],54.88052250001502
MR_224026_2,[C:1]([N:3]([C:4]([O:7][H:10])=[O:9])/[N:8]=[C:5](\[C:2]([H:16])([H:17])[H:18])[N:6]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:3]1[C@@:5]([C:2]([H:16])([H:17])[H:18])([N:6]([H:11])[H:12])[N:8]1[C:4]([O:7][H:10])=[O:9])([H:13])([H:14])[H:15],72.76176249999082
MR_268028_1,[C:1]([C:4]([N:3]([C:5]([C:2]([H:14])([H:15])[H:16])=[C:7]([H:17])[H:18])[N:6]([H:9])[H:10])=[O:8])([H:11])([H:12])[H:13]>>[C:1](/[C:4](=[N:3]/[N:6]([H:9])[H:10])[O:8][C:5]([C:2]([H:14])([H:15])[H:16])=[C:7]([H:17])[H:18])([H:11])([H:12])[H:13],57.10312750003922
MR_441292_1,[C:1]1([C:3]([H:15])([H:16])[H:17])([N:8]([H:10])[H:11])[N:5]([N:6]([C:2]([H:12])([H:13])[H:14])[H:9])[N:7]1[C:4]([H:18])([H:19])[H:20]>>[C:1]([C:3]([H:15])([H:16])[H:17])(/[N:5]=[N:6]/[C:2]([H:12])([H:13])[H:14])([N:7]([C:4]([H:18])([H:19])[H:20])[H:9])[N:8]([H:10])[H:11],25.423162499981657
MR_481839_2,[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])/[C:5](=[N:7]/[H:12])[H:13])([N:4]([H:10])[H:11])([O:6][H:8])[H:9]>>[C:1](\[N:3]([C:2]([H:14])([H:15])[H:16])[C:5]([O:6][H:8])([N:7]([H:10])[H:12])[H:13])(=[N:4]/[H:11])[H:9],47.78412499999007
MR_350855_0,[C:1]([N:6]([C:3]([H:14])([H:15])[H:16])[H:11])([C:7]([C:2]([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])[H:13])=[O:9])([O:8][H:10])[H:12]>>[C:1]1([O:8][H:10])([H:12])[C:7]([C:2]([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])[H:13])([N:6]([C:3]([H:14])([H:15])[H:16])[H:11])[O:9]1,64.23340999997862
MR_689223_0,[C:1]([C:2]([H:13])([H:16])[H:17])([C:3]([H:14])([H:15])[H:18])([N:4]([N:5]([H:10])[H:11])/[N:7]=[N:8]/[H:12])[O:6][H:9]>>[C:1]([C:2]([H:13])([H:16])[H:17])([C:3]([H:14])([H:15])[H:18])([N:4]([N:5]([H:10])[H:11])[O:6][H:9])/[N:7]=[N:8]/[H:12],71.34675000003213
MR_104463_1,[C:1](/[C:2](=[C:5](\[N:3]([H:8])[H:9])[H:11])[O:6][C:4](=[O:7])[H:10])([H:12])([H:13])[H:14]>>[C:1]([C@:2]1([C:4](=[O:7])[H:10])[C@@:5]([N:3]([H:8])[H:9])([H:11])[O:6]1)([H:12])([H:13])[H:14],49.00523999993894
MR_94766_1,[C:1](/[C:4]([N:3]([O:6][H:7])[H:8])=[C:5](/[C:2]([H:13])([H:14])[H:15])[H:9])([H:10])([H:11])[H:12]>>[C:1](/[C:4](=[N:3]\[H:8])[C@:5]([C:2]([H:13])([H:14])[H:15])([O:6][H:7])[H:9])([H:10])([H:11])[H:12],46.17646999998272
MR_601083_1,[C@@:1]1([C:3]([N:4]([N:5]([H:10])[H:11])[O:7][H:8])([H:14])[H:15])([H:9])[C:2]([H:12])([H:13])[O:6]1>>[C:1]1([C:3]([N:4]([N:5]([H:10])[H:11])[O:7][H:8])([H:14])[H:15])([H:9])[C:2]([H:12])([H:13])[O:6]1,65.20666250001824
MR_195797_0,[C:1]1([H:11])([H:12])[N:4]([H:8])[C:2]([H:13])([H:14])[C:6]([C:3]([H:15])([H:16])[H:17])=[C:5]1[N:7]([H:9])[H:10]>>[C:1]1([H:11])([H:12])[N:4]([H:8])[C@:5]1([C:6](=[C:2]([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])[N:7]([H:9])[H:10],63.953545000007495
MR_1154_0,[C:1]([C:4]([H:18])([H:19])[H:20])([N:5]([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])([C:6]([O:8][H:11])=[O:9])[O:7][H:10]>>[C:1]1([C:4]([H:18])([H:19])[H:20])([O:7][H:10])[C:6]([N:5]([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])([O:8][H:11])[O:9]1,44.3046375000003
MR_184506_2,[C:1]1([C:4]([N:5]([H:9])[H:10])=[C:6]([H:15])[H:16])([O:7][H:8])[C:2]([H:11])([H:12])[C:3]1([H:13])[H:14]>>[C@@:1]1([C:2]([C:3]([H:9])([H:13])[H:14])([H:11])[H:12])([O:7][H:8])/[C:4](=[N:5]/[H:10])[C:6]1([H:15])[H:16],54.70294000003534
MR_471390_1,[C:1](/[C:3]([N:2]([N:4]([H:10])[H:11])/[C:6](=[N:8]/[H:12])[H:14])=[C:5](\[O:7][H:9])[H:13])([H:15])([H:16])[H:17]>>[C:1](/[C:3](=[N:2]\[N:4]([H:10])[H:11])[C:5](/[C:6](=[N:8]/[H:12])[H:14])([O:7][H:9])[H:13])([H:15])([H:16])[H:17],49.770790000039256
